US04002640
A solution of 3.4 g. of 2-nitro-5-mercaptoaniline in 20 ml. of DMF is treated with 0.5 g. of 100% sodium hydride, and 2.2 g. of chloromethylthiocyanate is added to the solution. After 30 minutes at 20°-25° C., the solution is diluted with water and extracted with chloroform. Removal of the chloroform leaves 1-amino-2-nitro-5-(thiocyanatomethylthio)benzene.

reactant | 2-nitro-5-mercaptoaniline | [N+](=O)([O-])C1=C(N)C=C(C=C1)S | C6H6N2O2S
reactant | DMF | CN(C)C=O | C3H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | chloromethylthiocyanate | ClCSC#N | C2H2ClNS
solvent | water | O | H2O
product | 1-amino-2-nitro-5-(thiocyanatomethylthio)benzene | NC1=C(C=CC(=C1)SCSC#N)[N+](=O)[O-] | C8H7N3O2S2
